US06013658
5-[(1R)-1-{(2R)-2-tert-Butoxycarbonylamino-3-(2-naphthyl)propionylamino}-2-phenylethyl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester (0.41 g, 0.7 mmol) was suspended in a saturated mixture of hydrogen chloride in ethyl acetate (10 ml). After 18 h at 20° C., the reaction mixture was filtered to give 0.39 g of 5-[(1R)-1-{(2R)-2-amino-3-(2-naphthyl)propionylamino}-2-phenylethyl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester hydrochloride.

reactant | 5-[(1R)-1-{(2R)-2-tert-Butoxycarbonylamino-3-(2-naphthyl)propionylamino}-2-phenylethyl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester | 0.7 mmol, 0.41 g | C(C)OC(=O)C1=NOC(=N1)[C@@H](CC1=CC=CC=C1)NC([C@@H](CC1=CC2=CC=CC=C2C=C1)NC(=O)OC(C)(C)C)=O | C31H34N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-[(1R)-1-{(2R)-2-amino-3-(2-naphthyl)propionylamino}-2-phenylethyl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester hydrochloride | 0.39 g | Cl.C(C)OC(=O)C1=NOC(=N1)[C@@H](CC1=CC=CC=C1)NC([C@@H](CC1=CC2=CC=CC=C2C=C1)N)=O | InChI=1S/C26H26N4O4.ClH/c1-2-33-26(32)23-29-25(34-30-23)22(16-17-8-4-3-5-9-17)28-24(31)21(27)15-18-12-13-19-10-6-7-11-20(19)14-18;/h3-14,21-22H,2,15-16,27H2,1H3,(H,28,31);1H/t21-,22-;/m1./s1
